US08071581B2
To a solution of (7-fluoro-quinolin-6-yl)-acetic acid (13.4 g, 65.36 mmol) in methanol (140 mL) was added conc.H2SO4 (3.5 mL, 68.63 mmol). The reaction mixture was concentrated to give a brown residue, which was diluted with 100 ml of ethyl acetate, washed with sat. aq. NaHCO3 and brine, then the organic layer was dried over anhydrous Na2SO4, and concentrated to give (7-fluoro-quinolin-6-yl)-acetic acid methyl ester as yellow solid (14.0 g, yield: 98%).

reactant | (7-fluoro-quinolin-6-yl)-acetic acid | 65.36 mmol, 13.4 g | FC1=C(C=C2C=CC=NC2=C1)CC(=O)O | C11H8FNO2
reactant | H2SO4 | 68.63 mmol, 3.5 mL | OS(=O)(=O)O | H2O4S
reactant | methanol | 140 mL | CO | CH4O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | (7-fluoro-quinolin-6-yl)-acetic acid methyl ester | 14.0 g, yield: 98% | COC(CC=1C=C2C=CC=NC2=CC1F)=O | C12H10FNO2
